US07732456B2
(1) Preparation of 4-bezyloxypyridine 1-oxide
To a DMF suspension (200 mL) of sodium hydride (60% oilyness, 7.50 g, 0.188 mmol), benzyl alcohol (20.3 mL) was added under cooling with ice, and stirred for an hour at room temperature. Then 4-nitropyridine 1-oxide (25.5 g, 182 mmols) was added little by little under stirring, followed by an hour's stirring at room temperature. The solvent was concentrated under reduced pressure and chloroform (1 L) was added to the resulting residue. The insoluble matter was filtered using Celite (100 g). The filtrate was concentrated and to which acetone was added to provide the title compound (24.8 g, 69%).

reactant | sodium hydride | 0.188 mmol, 7.50 g | [H-].[Na+]
reactant | benzyl alcohol | 20.3 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | 4-nitropyridine 1-oxide | 182 mmols, 25.5 g | [N+](=O)([O-])C1=CC=[N+](C=C1)[O-] | C5H4N2O3
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 4-bezyloxypyridine 1-oxide | 24.8 g, 69% | C(C1=CC=CC=C1)OC1=CC=[N+](C=C1)[O-] | C12H11NO2
